US08389511B2
tert-Butyl (3R)-3-[isopropyl({2,2,7-trimethyl-3-oxo-4-[2-(propionyloxy)ethyl]-3,4-dihydro-2H-1,4-benzoxazin-6-yl}carbonyl)amino]piperidine-1-carboxylate
To tert-butyl (3R)-3-[{[4-(2-hydroxyethyl)-2,2,7-trimethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate (150 mg) were added sodium hydride (16 mg) and N,N-dimethylformamide (9 ml) under ice-cooling, and the mixture was stirred at room temperature for 30 minutes. Then, to the mixture was added propionic chloride (0.03 ml), and the mixture was further stirred at room temperature for 2 hours. After the reaction was complete, water was added to the reaction solution, and the mixture was extracted with ethyl acetate solution. The obtained ethyl acetate solution was washed with water and an aqueous sodium chloride solution, dried over magnesium sulfate, filtered and concentrated. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/2) to give the title compound (110 mg) as a colorless liquid.

reactant | tert-butyl (3R)-3-[{[4-(2-hydroxyethyl)-2,2,7-trimethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate | 150 mg | OCCN1C(C(OC2=C1C=C(C(=C2)C)C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)(C)C)=O | C27H41N3O6
reactant | sodium hydride | 16 mg | [H-].[Na+]
reactant | N,N-dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
reactant | propionic chloride | 0.03 ml | C(CC)(=O)Cl | C3H5ClO
solvent | water | O | H2O
product | tert-Butyl (3R)-3-[isopropyl({2,2,7-trimethyl-3-oxo-4-[2-(propionyloxy)ethyl]-3,4-dihydro-2H-1,4-benzoxazin-6-yl}carbonyl)amino]piperidine-1-carboxylate | 110 mg | C(C)(C)N([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C(=O)C=1C(=CC2=C(N(C(C(O2)(C)C)=O)CCOC(CC)=O)C1)C | C30H45N3O7
